US04675186
3-[1-(Ethoxy)ethoxy]-1-propene
Allyl alcohol (46.8 ml. 40 g., 0.69 mol) and ethyl vinyl ether (98.8 ml., 74.5 g., 1.033 mols) were stirred together at -12°. dl-Camphorsulfonic acid (150 mg.) was added acid and stirring continued for 3 hours at that temperature. The mixture was then washed 1×100 ml. saturated NaHCO3, 1×100 ml. brine, dried and stripped to yield title product as an oil (100 ml., essentially quantitative yield). 1H-nmr 1.14 (t, 3H), 1.29 (d, 3H), 3.56 (dp, 2H), 4.06 (m, 2H), 4.75 (q, 1H), 5.26 (m, 2H), 5.99 (m, 1H).

reactant | Allyl alcohol | 0.69 mol, 46.8 ml, 40 g | C(C=C)O | C3H6O
reactant | ethyl vinyl ether | 1.033 mols, 98.8 ml, 74.5 g | C(=C)OCC | C4H8O
reactant | dl-Camphorsulfonic acid | 150 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | 3-[1-(Ethoxy)ethoxy]-1-propene | quantitative yield | C(C)OC(C)OCC=C | C7H14O2
